US04478849
4-Acetonylbenzoyl chloride
Thionyl chloride (1.45 ml) was added to 4-acetonylbenzoic acid (3.56 g) in benzene and the mixture refluxed for 1 hour. Benzene was evaporated to give the title compound as a yellow oil, 2.61 g, (bp 135°-140°/0.5 mm). γ (CDCl3) 7.78 (3H, s), 6.17 (2H, s), 2.63 (2H, d, J=9 Hz), 1.88 (2H, d, J=9 Hz).

reactant | Thionyl chloride | 1.45 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-acetonylbenzoic acid | 3.56 g | C(C(=O)C)C1=CC=C(C(=O)O)C=C1 | C10H10O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-Acetonylbenzoyl chloride | C(C(=O)C)C1=CC=C(C(=O)Cl)C=C1 | C10H9ClO2
